US07429665B2
4-(3-methyl-5-(pyridin-4-yl)-3H-1,2,3-triazol-4-yl)phenol
A solution of 4-(5-(4-methoxyphenyl)-1-methyl-1H-1,2,3-triazol-4-yl)pyridine (170 mg, 0.64 mmol) in dichloromethane (5 mL) was treated at RT With boron tribromide (1.27 mL of 1M in dichloromethane) and the mixture was stirred overnight. Aqueous 1N NaOH (10 mL) was added, and after being stirred 1 h the mixture was extracted with dichloromethane (20 mL). The aqueous layer was acidified to pH 7 with 2N HCl, and extracted with ethyl acetate (2×15 mL). The extracts were dried with sodium sulfate and concentrated giving a yellow solid (142 mg, 88%). 1H NMR (CDCl3, 400 mHz) δ 1H NMR (CDCl3, 400 mHz) δ 8.39 (d, 2H, J=5-6 Hz), 7.49 (d, 2H, J=5-6 Hz), 7.09 (d, 2H, J=8.7 Hz), 6.95 (d, 2H, J=8.7 Hz), 3.87 (s, 3H). MS (AP−) 351 (M−H).

reactant | 4-(5-(4-methoxyphenyl)-1-methyl-1H-1,2,3-triazol-4-yl)pyridine | 0.64 mmol, 170 mg | COC1=CC=C(C=C1)C1=C(N=NN1C)C1=CC=NC=C1 | C15H14N4O
reactant | boron tribromide | 1M, 1.27 mL | B(Br)(Br)Br | BBr3
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-(3-methyl-5-(pyridin-4-yl)-3H-1,2,3-triazol-4-yl)phenol | 142 mg, 88% | CN1N=NC(=C1C1=CC=C(C=C1)O)C1=CC=NC=C1 | C14H12N4O
